US09278972B2
Preparation of (1S,2S,3R,5S)-3-(7-chloro-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (CLTOL)
To a stirring solution of (1S,2S,3R,5S)-3-((5-amino-6-chloro-2-(propylthio)pyrimidin-4-yl)amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (OLACINA; 1.14 g, 3 mmol) in acetic acid (5 mL) was added sodium nitrite (0.23 g, 3.3 mmol) while maintaining the reaction temperature at 20-30° C. The reaction mixture was stirred for 30 minutes. It was then diluted with ethyl acetate (50 mL), washed with water (2×35 mL) and evaporated under reduced pressure. The crude product was triturated in hexane (20 mL) and filtered to give CLTOL as an off-white powder (1.00 g, 86% yield): 98 area % by HPLC; mp 98-107° C.; 13C NMR (CDCl3, 125 MHz) δ13.4, 22.0, 33.5, 33.7, 61.75, 61.77, 71.1, 74.9, 75.4, 82.0, 131.8, 150.7, 152.9, 171.8.

reactant | (1S,2S,3R,5S)-3-((5-amino-6-chloro-2-(propylthio)pyrimidin-4-yl)amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 3 mmol, 1.14 g | NC=1C(=NC(=NC1Cl)SCCC)N[C@H]1[C@@H]([C@@H]([C@H](C1)OCCO)O)O | C14H23ClN4O4S
reactant | sodium nitrite | 3.3 mmol, 0.23 g | N(=O)[O-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (1S,2S,3R,5S)-3-(7-chloro-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 1.00 g, 86% yield | ClC=1C2=C(N=C(N1)SCCC)N(N=N2)[C@H]2[C@@H]([C@@H]([C@H](C2)OCCO)O)O | C14H20ClN5O4S
